US04435425
(C) Preparation of: 2-Carboxy 2-difluoromethyl 5-hexenoic acid
2-Difluoromethyl 2(tert-butoxycarbonyl)-5-hexenoic acid, tert-butyl ester prepared as in Step B (5 mM, 1.600 g) is dissolved in trifluoroacetic acid (10 ml) at 0° C. After stirring for 1.5 hours at room temperature, the solvent is evaporated in vacuo yielding a white solid. 1.040 g (quantitative yield). Mp: 80°-81° C.

reactant | 2-Difluoromethyl 2(tert-butoxycarbonyl)-5-hexenoic acid, tert-butyl ester | FC(C(C(=O)OC(C)(C)C)(CCC=C)C(=O)OC(C)(C)C)F | C16H26F2O4
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Carboxy 2-difluoromethyl 5-hexenoic acid | quantitative yield | C(=O)(O)C(C(=O)O)(CCC=C)C(F)F | C8H10F2O4
